US07994185B2
N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2,2,2-trifluoroethyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (100 mg, 0.190 mmol) and 2,2,2-trifluoroethylamine (0.5 ml, 0.190 mmol) the title compound, was obtained as a white powder (70 mg, 0.116 mmol, 62.7% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.78 (s, 1H), 8.49 (d, J=5.2 Hz, 1H), 7.37-7.51 (m, 4H), 7.21-7.29 (m, 2H), 6.72 (d, J=5.2 Hz, 1H), 4.85 (q, J=8.9 Hz, 2H), 1.42 (s, 9H). MS (ESI): 602.9 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.190 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | 2,2,2-trifluoroethylamine | 0.190 mmol, 0.5 ml | FC(CN)(F)F | C2H4F3N
product | N-[3-(2-(1,1-Dimethylethyl)-5-{2-[(2,2,2-trifluoroethyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)NCC(F)(F)F | C25H21F6N5O2S2
